US08461179B1
A mixture of 1-fluoro-2-methyl-4-nitrobenzene (2.5 g, 16.12 mmol) and NBS (3.16 g, 17.73 mmol) in trifluorotoluene (45 mL) was treated with AIBN (66 mg, 0.403 mmol) and heated at 80° C. overnight. The mixture was cooled to RT, the solids removed via filtration and the filtrate concentrated to dryness. The residue was dissolved in EtOAc, washed with water, then brine, dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (EtOAc/Hex) to afford 2-(bromomethyl)-1-fluoro-4-nitrobenzene (1.915 g, 50% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.53-8.52 (m, 1H), 8.28 (ddd, J=9.1, 4.4, 3.0 Hz, 1H), 7.55 (t, J=9.2 Hz, 1H), 4.80 (s, 2H).

reactant | 1-fluoro-2-methyl-4-nitrobenzene | 16.12 mmol, 2.5 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | NBS | 17.73 mmol, 3.16 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | trifluorotoluene | 45 mL | FC(C1=CC=CC=C1)(F)F | C7H5F3
catalyst | AIBN | 0.403 mmol, 66 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 2-(bromomethyl)-1-fluoro-4-nitrobenzene | 1.915 g, 50% yield | BrCC1=C(C=CC(=C1)[N+](=O)[O-])F | C7H5BrFNO2
